US07365095B2
To a suspension of [8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate (0.13 g, 0.30 mmol) in dimethylsulfoxide (0.5 mL) was added a solution of methylamine (2.0 M in tetrahydrofuran, 1.5 mL, 3.0 mmol) and the mixture heated to 60° C. in a sealed vial for 24 hours. The cooled reaction mixture was then diluted with diethyl ether (10 mL), washed with water (5×5 mL) and saturated brine (5 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a yellow oil. Purification by flash chromatography using a solvent gradient of 0.5 to 5% ammonia saturated methanol solution in dichloromethane gave 69 mg (79%) of N-{[8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}-N-methylamine. The product was dissolved in diethyl ether (1 mL) and a solution of hydrogen chloride (1.0 M in diethyl ether, 0.25 mL, 0.25 mmol) was added followed by 2-propanol (3 drops). The resulting white precipitate was filtered to afford 74 mg (76%) of N-{[8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}-N-methylamine hydrochloride as a white solid. HRMS: calcd for C17H18ClNO+H+, 288.11497. found (ESI, [M+H]+), 288.1143.

reactant | [8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 0.30 mmol, 0.13 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=CC=C2CC1)C1=C(C=CC=C1)Cl | C23H21ClO4S
reactant | methylamine | 3.0 mmol, 2.0 M, 1.5 mL | CN | CH5N
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | N-{[8-(2-chlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}-N-methylamine | 69 mg, 79% | ClC1=C(C=CC=C1)C=1C=CC=C2CCC(OC12)CNC | C17H18ClNO
